US07081454B2
(S)-4-(1-Benzyl-2-hydroxy-ethylamino)-3-(6-bromo-4-methyl-1H-benzimidazol-2-yl)-1H-pyridin-2-one:
To a solution of 3-(6-bromo-4-methyl-1H-benzimidazol-2-yl)-4-chloro-1H-pyridin-2-one (1.42 g, 3.78 mmol) in DMF (15 mL) were added (S)-(−)-2-amino-3-phenyl-1-propanol (1.43 g, 9.45 mmol) and N-methyl morpholine (1.5 mL). The reaction mixture was heated to 80° C. for 6 h and cooled to room temperature. The solvent was removed with high vacuum and the residue was purified by flash chromatography (5% MeOH/CH2Cl2) to yield the title compound (1.26 g, 74%) as a yellow foam. 1H NMR (300 MHz, CDCl3) δ 6.9–7.2 (8H, m), 5.86 (1H, d, J=7.1 Hz), 3.7–3.9 (3H, m), 2.9–3.1(2H, m), 2.57 (3H, s). LCMS (M+H)+ m/z 453 (t=2.03 min.).

reactant | 3-(6-bromo-4-methyl-1H-benzimidazol-2-yl)-4-chloro-1H-pyridin-2-one | 3.78 mmol, 1.42 g | BrC=1C=C(C2=C(NC(=N2)C=2C(NC=CC2Cl)=O)C1)C | C13H9BrClN3O
reactant | (S)-(−)-2-amino-3-phenyl-1-propanol | 9.45 mmol, 1.43 g | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | N-methyl morpholine | 1.5 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (S)-4-(1-Benzyl-2-hydroxy-ethylamino)-3-(6-bromo-4-methyl-1H-benzimidazol-2-yl)-1H-pyridin-2-one | 1.26 g, 74% | C(C1=CC=CC=C1)[C@@H](CO)NC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)Br | C22H21BrN4O2
